US08048887B2
Methyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoate
Trimethylsilyldiazomethane (500 μL, 1.00 mmol, 2M in diethyl ether) was added to a stirring solution of 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid (100 mg, 0.257 mmol) in diethyl ether (2.5 mL) at 25° C. It was allowed to stir for 2 hours. The mixture was concentrated to afford the titled compound (100 mg, 97%). LC-MS retention time: 2.46 min; m/z (MH+): 404. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters SunFire 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 3 min, a hold time of 1 min, and an analysis time of 4 min where solvent A was 10% acetonitrile/90% H2O/0.1% trifluoroacetic acid and solvent B was 10% H2O/90% acetonitrile/0.1% trifluoroacetic acid. MS data was determined using a MICROMASS® Platform for LC in electrospray mode.

reactant | Trimethylsilyldiazomethane | 1.00 mmol, 2M, 500 μL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoic acid | 0.257 mmol, 100 mg | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)O)C=CC2 | C23H16FNO4
solvent | diethyl ether | 2.5 mL | C(C)OCC | C4H10O
product | Methyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)benzofuran-5-yl)benzoate | 100 mg, 97% | FC1=CC=C(C=C1)C=1OC2=C(C1C(NC)=O)C=C(C=C2)C=2C=C(C(=O)OC)C=CC2 | C24H18FNO4
